US07807709B2
A. (3S*,4R*)-3-{[Cyclopropyl-(2-methoxycarbonyl-2-methyl-propoxycarbonyl)-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound is prepared analogously as described above for NVP-BGW706 from ((3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester and methyl 2,2-dimethyl-3-hydroxypropionate using bis(trichloromethyl) carbonate. MS (LC-MS): 592.1 [M+H-Boc]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 5.92 min.

reactant | (3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CNC1CC1 | C29H47N3O6
reactant | methyl 2,2-dimethyl-3-hydroxypropionate | CC(C(=O)OC)(CO)C | C6H12O3
reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | CH3CN H2O | CC#N.O
product | (3S*,4R*)-3-{[Cyclopropyl-(2-methoxycarbonyl-2-methyl-propoxycarbonyl)-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(=O)OCC(C)(C)C(=O)OC)C1CC1 | C36H57N3O10
